US06740777B2
To a deoxygenated suspension of sodium ethanethiolate (0.135 g, 1.60 mmol) in DMF (0.5 mL) was added a solution of 3-(2-mercaptoethyl)-[1,1′-biphenyl]-2,3′-dicarboxylic acid, 2-methyl ester (0.10 g, 0.32 mmol) in DMF (0.5 mL). Argon was bubbled through the mixture for 10 min. The reaction was heated at 100° C. for 1 h and 200° C. for another hour. After the mixture cooled to rt, the reaction was quenched with 1 N HCl (20 mL) and was extracted with EtOAc (3×20 mL). The combined organic extracts were washed with water and brine, dried over MgSO4, filtered, and concentrated to afford 3-(2-mercaptoethyl)-[1,1′-biphenyl]-2,3′-dicarboxylic acid (0.055 g, 57%) as a white solid: 1H NMR (CDCl3) δ1.51 (t, J=8.0 Hz, 1H), 2.87-2.93 (m, 2H), 3.12-3.08 (m, 2H), 7.37 (m, 2H), 7.57-7.47 (m, 2H), 7.70 (dm, J=7.9 Hz, 1H), 7.98 (dm, J=7.8 Hz, 1H), 8.30 (m, 1H); 13C NMR (CDCl3) δ26.2, 38.8, 128.1, 129.3, 129.7, 129.8, 129.9 (2C), 130.5, 133.3, 134.4, 137.7, 139.1, 141.2, 172.3, 176.9. Anal. Calcd for C16H14O4S: C, 63.56; H, 4.67; S, 10.61. Found: C, 63.65; H, 4.88; S, 10.33.

reactant | sodium ethanethiolate | 1.60 mmol, 0.135 g | C(C)[S-].[Na+]
reactant | 3-(2-mercaptoethyl)-[1,1′-biphenyl]-2,3′-dicarboxylic acid, 2-methyl ester | 0.32 mmol, 0.10 g | SCCC1=C(C(=CC=C1)C1=CC(=CC=C1)C(=O)[O-])C(=O)OC
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-(2-mercaptoethyl)-[1,1′-biphenyl]-2,3′-dicarboxylic acid | 0.055 g, 57% | SCCC1=C(C(=CC=C1)C1=CC(=CC=C1)C(=O)O)C(=O)O | C16H14O4S
